US08664230B2
To a solution of 5-bromopyridin-3-amine (1.00 g, 5.78 mmol) in pyridine (3.00 mL) was added benzenesulfonyl chloride (0.75 mL, 5.78 mmol) dropwise at 0° C. The mixture was stirred for 40 min at room temperature. The resulting solid was filtered, washed with water, and dried under vacuum to give N-(5-bromopyridin-3-yl)benzenesulfonamide (1.39 g, 77%) as a brown solid. 1H-NMR (DMSO-d6, Varian 400 MHz) δ 7.58-7.68 (4H, m), 7.79-7.81 (2H, m), 8.27 (1H, d, J=2.4 Hz), 8.37 (1H, d, J=2.0 Hz), 10.91 (1H, brs).

reactant | 5-bromopyridin-3-amine | 5.78 mmol, 1.00 g | BrC=1C=C(C=NC1)N | C5H5BrN2
reactant | benzenesulfonyl chloride | 5.78 mmol, 0.75 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 3.00 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromopyridin-3-yl)benzenesulfonamide | 1.39 g, 77% | BrC=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1 | C11H9BrN2O2S
